US08541448B2
To triethyleneglycol (17.6 g, 117.20 mmol, 3.00 equiv) in anhydrous THF (70 mL), was added sodium (30 mg, 1.25 mmol, 0.03 equiv). Tert-butyl acrylate (5.0 g, 39.01 mmol, 1.00 equiv) was added after the sodium had dissolved. The resulting solution was stirred overnight at room temperature and then neutralized with 1.0 N hydrogen chloride. After removal of the solvent, the residue was suspended in 50 mL of brine and extracted with 3×50 mL of ethyl acetate. The combined organic layers were washed with saturated brine and dried over anhydrous sodium sulfate. After evaporation of the solvent, the tert-butyl 3-(2-(2-(2-hydroxyethoxy)ethoxy)ethoxy)propanoate (9.6 g) was isolated as a colorless oil, which was used directly for the next reaction step without further purification.

reactant | triethyleneglycol | 117.20 mmol, 17.6 g, 3.00 equiv | C(COCCOCCO)O | C6H14O4
reactant | Tert-butyl acrylate | 39.01 mmol, 5.0 g, 1.00 equiv | C(C=C)(=O)OC(C)(C)C | C7H12O2
reactant | sodium | [Na] | Na
reactant | hydrogen chloride | 1.0 N | Cl | ClH
solvent | THF | 70 mL | C1CCOC1 | C4H8O
catalyst | sodium | 1.25 mmol, 30 mg, 0.03 equiv | [Na] | Na
product | tert-butyl 3-(2-(2-(2-hydroxyethoxy)ethoxy)ethoxy)propanoate | 9.6 g | OCCOCCOCCOCCC(=O)OC(C)(C)C | C13H26O6
